US04030925
6. 1-Acetyl-2-(4-benzylaminophenyl)hydrazine
1-Acetyl-2-(4-benzalaminophenyl)hydrazine (5.1 g, 0.02 mole) and platinum oxide (catalytic amount) were suspended in ethanol (200 ml) in a Parr shaker bottle. The reaction mixture was hydrogenated at room temperature until hydrogen uptake ceased. The reaction mixture was filtered and the solvent was evaporated from the filtrate leaving a white crystalline powder. Yield 4.7 g (92%), m.p. 118°-120° C.

reactant | 1-Acetyl-2-(4-benzalaminophenyl)hydrazine | 0.02 mole, 5.1 g | C(C)(=O)NNC1=CC=C(C=C1)N=CC1=CC=CC=C1 | C15H15N3O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | platinum oxide | [Pt]=O
product | 1-Acetyl-2-(4-benzylaminophenyl)hydrazine | C(C)(=O)NNC1=CC=C(C=C1)NCC1=CC=CC=C1 | C15H17N3O
